US03963675
15 drops of 85% phosphoric acid were added to a mixture, cooled in a laboratory autoclave, of 76 g of 3-isopropenyl-1-methyl-2-methylene-cyclopentan-1-ol and 120 g of isopropenyl methyl ether. After gassing with nitrogen, the autoclave was brought, in an oil bath of 180°C, to an internal temperature of 150°C and held at this temperature until a distinct drop in pressure occurred (about 50-75 minutes). The reaction mixture was quenched by intensive cooling, treated with solid potassium hydroxide and concentrated under reduced pressure on a rotary evaporator. By fractional distillation over solid potassium hydroxide there were obtained 58 g (60%) of 3-isopropenyl-1-methyl-2-(3-oxobutyl)-cyclopent-1-ene; boiling point 0.01 = 69°-72°C; nD20 = 1.4836. The compound has a woody, camphoraceous, ionone-like fragrance.

reactant | 3-isopropenyl-1-methyl-2-methylene-cyclopentan-1-ol | 76 g | C(=C)(C)C1C(C(CC1)(O)C)=C | C10H16O
reactant | isopropenyl methyl ether | 120 g | COC(=C)C | C4H8O
catalyst | phosphoric acid | 15 drops | P(O)(O)(O)=O | H3O4P
product | 3-isopropenyl-1-methyl-2-(3-oxobutyl)-cyclopent-1-ene | 58 g, 60% | C(=C)(C)C1C(=C(CC1)C)CCC(C)=O | C13H20O
